US06465468B1
(3a,7a-Dihydrobenzofuran-2-ylmethyl)methylamine
To a stirred solution of benzofuran-2-carboxaldehyde (1.50 g) and 4 Å molecular sieves in dichloroethane (50 ml) under an atmosphere of nitrogen was added methylamine in THF (2.0M, 10.3 ml) and acetic acid (1.23 g). Stirring was continued for 2 h before sodium triacetoxyborohydride (2.18 g) was added and stirring as continued overnight. The mixture was filtered, absorbed onto silica gel and chromatographed eluting with dichloromethane/methanol (9:1) to yield the title compound (1.05 g, 64%) as an off-white solid.

reactant | benzofuran-2-carboxaldehyde | 1.50 g | O1C(=CC2=C1C=CC=C2)C=O | C9H6O2
reactant | methylamine | CN | CH5N
reactant | sodium triacetoxyborohydride | 2.18 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
solvent | THF | 2.0M, 10.3 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 1.23 g | C(C)(=O)O | C2H4O2
product | (3a,7a-Dihydrobenzofuran-2-ylmethyl)methylamine | 1.05 g, 64% | O1C(=CC2C1C=CC=C2)CNC | C10H13NO
